US08455399B2
3-amino-N-[2,6-dibromo-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-phenyl]-4-(1,2,4-triazol-1-yl)benzamide (Compound No. B4 of Table B)
To a solution of N-[2,6-dibromo-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-phenyl]-3-nitro-4-(1,2,4-triazol-1-yl)benzamide (Example I2) (675 mg, 0.98 mmol) in a mixture of ethanol and water (20 ml and 4 ml, respectively) was added aqueous hydrochloric acid (37% w/v) (0.25 ml) and iron metal powder (5550 mg, 9.8 mmol). The reaction mixture was stirred at 80° C. for 1 hour. The mixture was filtered through a silica gel pad and the filtrate concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 1:1) to give Compound No. B4 of Table B (372 mg, 58% yield).

reactant | N-[2,6-dibromo-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-phenyl]-3-nitro-4-(1,2,4-triazol-1-yl)benzamide | 0.98 mmol, 675 mg | BrC1=C(C(=CC(=C1)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)Br)NC(C1=CC(=C(C=C1)N1N=CN=C1)[N+](=O)[O-])=O | C19H8Br2F9N5O3
reactant | hydrochloric acid | 0.25 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | iron | [Fe] | Fe
product | 3-amino-N-[2,6-dibromo-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-phenyl]-4-(1,2,4-triazol-1-yl)benzamide | 58% yield | NC=1C=C(C(=O)NC2=C(C=C(C=C2Br)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)Br)C=CC1N1N=CN=C1 | C19H10Br2F9N5O
